US09120749B2
1-(6-(3,5-dichloro-4-hydroxyphenyl)-4-(4-(pyrrolidin-1-ylmethyl)phenylamino)quinolin-3-yl)ethanone hydrobromide
Following general procedure F, 1-(6-bromo-4-(4-(pyrrolidin-1-ylmethyl)phenylamino)quinoline-3-yl)ethanone (4.0 g, 9.42 mmol) was reacted with 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (4.0 g, 14.13 mmol) to obtain the free base. The purified product was suspended in dichloromethane/methanol (1:1, 40 mL) and HBr gas was bubbled through the suspension until a solution formed. The solution was concentrated to dryness and the resultant solid was triturated with diethyl ether. The mixture was filtered, washed with diethyl ether, and dried to obtain desired product (3.37 g, 52% over two steps) as a yellow solid: 1H NMR (300 MHz, DMSO-d6) δ 12.03 (br s, 1H), 10.59 (br s, 1H), 10.08 (br s, 1H), 9.27 (s, 1H), 8.43-8.27 (m, 2H), 8.112 (d, J=8.8 Hz, 1H), 7.72 (d, J=8.1 Hz, 2H), 7.59-7.47 (m, 4H), 4.47 (d, J=5.3 Hz, 2H), 3.40-3.24 (m, 2H), 3.19-3.02 (m, 2H), 2.56 (s, 3H), 2.13-1.81 (m, 4H); APCI MS m/z 506 [C28H25Cl2N3O2+H]+; HPLC>99% (AUC), tR=4.97 min.

reactant | 1-(6-bromo-4-(4-(pyrrolidin-1-ylmethyl)phenylamino)quinoline-3-yl)ethanone | 9.42 mmol, 4.0 g | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)NC1=CC=C(C=C1)CN1CCCC1 | C22H22BrN3O
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 14.13 mmol, 4.0 g | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
solvent | dichloromethane methanol | 40 mL | ClCCl.CO
product | 1-(6-(3,5-dichloro-4-hydroxyphenyl)-4-(4-(pyrrolidin-1-ylmethyl)phenylamino)quinolin-3-yl)ethanone hydrobromide | 3.37 g, 52% | Br.ClC=1C=C(C=C(C1O)Cl)C=1C=C2C(=C(C=NC2=CC1)C(C)=O)NC1=CC=C(C=C1)CN1CCCC1 | InChI=1S/C28H25Cl2N3O2.BrH/c1-17(34)23-15-31-26-9-6-19(20-13-24(29)28(35)25(30)14-20)12-22(26)27(23)32-21-7-4-18(5-8-21)16-33-10-2-3-11-33;/h4-9,12-15,35H,2-3,10-11,16H2,1H3,(H,31,32);1H
